US06140332
Step 5.1: 2-(5-Amino-4-cyano-3-methyl-1H-pyrrol-2-yl)-N-benzyl-pyridinium bromide
Under an argon atmosphere, 1.81 g (5.5 mmol) of N-benzyl-2-bromo-pyridinium bromide [for preparation see J. Heterocyclic Chem. 28,1083 (1991)] are added to 605.5 mg (5.0 mmol) of 2-amino-3-cyano-4-methyl-pyrrole [for preparation see Synthesis (1976), 51] in 40 ml of methylene chloride and 639 μl (5.5 mmol) of lutidine. After 5.5 hours' stirring at RT, the reaction mixture is concentrated by evaporation to approximately half its original volume. Filtering the suspension and washing with methylene chloride/ethyl acetate (1:1) and ethyl acetate/hexane (1:1) yield the title compound; 1H-NMR (300 MHz, DMSO-d6): 10.83 (s, 1H), 9.10 (d, J=7, 1H), 8.49 (t, J=7, 1H), 7.96 (m, 2H), 7.30 (m, 3H), 6.95 (m, 2H), 6.57 and 5.80 (2s, each 2H), 1.76 (s, 3H); FAB-MS: (M+H)+ =289.

reactant | N-benzyl-2-bromo-pyridinium bromide | 5.5 mmol, 1.81 g | [Br-].C(C1=CC=CC=C1)[N+]1=C(C=CC=C1)Br
reactant | 2-amino-3-cyano-4-methyl-pyrrole | 5.0 mmol, 605.5 mg | NC=1NC=C(C1C#N)C | C6H7N3
reactant | lutidine | 5.5 mmol, 639 μl | N1=C(C=CC=C1C)C | C7H9N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-(5-Amino-4-cyano-3-methyl-1H-pyrrol-2-yl)-N-benzyl-pyridinium bromide | [Br-].NC1=C(C(=C(N1)C1=[N+](C=CC=C1)CC1=CC=CC=C1)C)C#N | InChI=1S/C18H16N4.BrH/c1-13-15(11-19)18(20)21-17(13)16-9-5-6-10-22(16)12-14-7-3-2-4-8-14;/h2-10H,12H2,1H3,(H2,20,21);1H
